US07544835B2
d) 3-(t-Butyldimethylsilanyloxymethyl)-4-fluorobenzaldehyde
1.6 g of 4-Fluoro-3-hydroxymethylbenzaldehyde was dissolved in 20 ml of dichloromethane, and 1.4 g of imidazole and 1.75 g of t-butyldimethylchlorosilane were added under ice-cooling, then the mixture was stirred at room temperature for 16 hours. The reaction solution was diluted with water and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was subjected to silica gel column chromatography (18% ethyl acetate-hexane), to give 2.6 g of the title compound.

reactant | 4-Fluoro-3-hydroxymethylbenzaldehyde | 1.6 g | FC1=C(C=C(C=O)C=C1)CO | C8H7FO2
reactant | imidazole | 1.4 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 1.75 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-(t-Butyldimethylsilanyloxymethyl)-4-fluorobenzaldehyde | 2.6 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=O)C=CC1F | C14H21FO2Si
